US09284284B2
a) 5-[3-(6-Bromo-1-methyl-1H-indazol-3-ylamino)-phenyl]-5-methyl-morpholin-3-one
A mixture of 5-(3-bromo-phenyl)-5-methyl-morpholin-3-one [Example 1, step f)] (CAS registry 1262858-67-2) (138.5 mg, 0.513 mmol), 6-bromo-1-methyl-1H-indazol-3-ylamine (CAS registry 1214899-85-0) (116 mg, 0.513 mmol), X-phos (78 mg, 0.164 mmol) and K3PO4 (218 mg, 1.025 mmol) in toluene (2.5 ml) and water (0.250 ml) was degassed with argon (5 min), then Pd2(dba)3 (37.6 mg, 0.041 mmol) was added and the reaction mixture was stirred at 120° C. for 20 h. The reaction mixture was diluted with water, sat. aq. NaHCO3 soln. and EtOAc. The layers were separated and the aq. layer was twice reextracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting crude product was purified by RP-HPLC (Waters SunFire C18 column, 5 μM, 19×150 mm, gradient 10 to 70% ACN+0.1% TFA) to yield the title compound as a pale yellow powder.

reactant | 5-(3-bromo-phenyl)-5-methyl-morpholin-3-one | BrC=1C=C(C=CC1)C1(COCC(N1)=O)C | C11H12BrNO2
reactant | 6-bromo-1-methyl-1H-indazol-3-ylamine | 0.513 mmol, 116 mg | BrC1=CC=C2C(=NN(C2=C1)C)N | C8H8BrN3
reactant | X-phos | 0.164 mmol, 78 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | K3PO4 | 1.025 mmol, 218 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.250 ml | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | Pd2(dba)3 | 0.041 mmol, 37.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-[3-(6-Bromo-1-methyl-1H-indazol-3-ylamino)-phenyl]-5-methyl-morpholin-3-one | BrC1=CC=C2C(=NN(C2=C1)C)NC=1C=C(C=CC1)C1(COCC(N1)=O)C | C19H19BrN4O2
